US08859778B2
Step 2: 3-Cyclopropylmethoxy-4-nitro-benzoic acid methyl ester
3-Hydroxy-4-nitro-benzoic acid methyl ester (10.5 g) was dissolved in dry DMF (150 ml) under N2 atmosphere. K2CO3 (24.3 g), K1 (2.6 g) and cyclopropylmethylbromide (10.3 ml) were added and the mixture was stirred at 50° C. for 6 hours. The reaction mixture was diluted with water (300 ml) and extracted with Et2O (2×200 ml); the combined organic layers were dried over Na2SO4 and the solvent was removed by evaporation to yield 12.7 g of the desired intermediate.

reactant | 3-Hydroxy-4-nitro-benzoic acid methyl ester | 10.5 g | COC(C1=CC(=C(C=C1)[N+](=O)[O-])O)=O | C8H7NO5
reactant | K2CO3 | 24.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclopropylmethylbromide | 10.3 ml | C1(CC1)CBr | C4H7Br
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | water | 300 ml | O | H2O
product | 3-Cyclopropylmethoxy-4-nitro-benzoic acid methyl ester | 12.7 g | COC(C1=CC(=C(C=C1)[N+](=O)[O-])OCC1CC1)=O | C12H13NO5
